US08012976B2
(E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one (600 mg, 1 mmol), benzaldehyde (616 mg, 3 mmol), sodium methanolate (414 mg, 7.6 mmol) and ethyl propionate (20 ml) were added and the mixture was stirred at room temperature overnight. The resulting mixture was then evaporated under reduced pressure and extracted with ethyl acetate (100 mL×4) and concentrated. The crude product was purified by column chromatography (silica gel, petroleum ether:ethyl acetate=20:1 to 5:1) to yield 120 mg of solid of methyl 2-(4-(dimethoxymethyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (yield: 22%). LC-MS (ESI) m/z: 432(M+1)+.

reactant | (E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one | 1 mmol, 600 mg | C(C)OC(C1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1)OCC | C20H21NO4
reactant | benzaldehyde | 3 mmol, 616 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium methanolate | 7.6 mmol, 414 mg | C[O-].[Na+]
reactant | ethyl propionate | 20 ml | C(CC)(=O)OCC | C5H10O2
product | methyl 2-(4-(dimethoxymethyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | yield: 22% | COC(C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=CC=C1)=O)C(=O)OC)OC | C26H25NO5
